### PR TITLE
feat: define `Complex.UnitDisc.shift`

### PR DESCRIPTION
**Pull request by urkud**
Also review the existing API
UPD: I'm going to define a `PSL(2, Real)` action instead.

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Analysis/Complex/UnitDisc/Shift.lean [hunk 1]
```diff
@@ -0,0 +1,195 @@
...
+
+theorem shiftFun_neg_apply_shiftFun (z w : 𝔻) : shiftFun (-z) (shiftFun z w) = w := by
+  rw [shiftFun_eq_iff, coe_shiftFun, add_div_eq_mul_add_div, ← mul_div_assoc,
+    add_div_eq_mul_add_div]
+  · simp; ring
+  all_goals exact shift_den_ne_zero z w
+
+public section
+
+/-- The automorphism of the unit disc that sends zero to `z`. -/
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/UnitDisc/Shift.lean:74]: Can you expand the docstring? (There are several automorphisms sending zero to `z`). Mention also that it's the complex unit disk, maybe?

File: Mathlib/Analysis/Complex/UnitDisc/Shift.lean [hunk 2]
```diff
@@ -0,0 +1,195 @@
...
+Copyright (c) 2025 Yury Kudryashov. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Yury Kudryashov
+-/
+
+module
+public import Mathlib.Analysis.Complex.UnitDisc.Basic
+
+/-!
+# Shift on the unit disc
```
Comment (sgouezel) [inline Mathlib/Analysis/Complex/UnitDisc/Shift.lean:11]: Is `shift` a standard terminology for this map?

Comment (urkud) [reply Mathlib/Analysis/Complex/UnitDisc/Shift.lean:11]: No, I came up with a random name. I'm happy to rename to something better. `translation`? Something else?

Comment (urkud) [reply Mathlib/Analysis/Complex/UnitDisc/Shift.lean:11]: I've started https://leanprover.zulipchat.com/#narrow/channel/116395-maths/topic/Shifts.20.28translations.3F.29.20of.20the.20hyperbolic.20plane/with/566237799
